US07153854B2
A mixture of ethyl 5-[2-(bromomethyl)-4-(5-bromo-3-pyridinyl)-7-ethylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate (70.0 mg) and potassium cyanide (13.1 mg) in N,N-dimethylformamide (1 mL) was stirred for 28 hours at room temperature. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with water (two times), brine, dried over magnesium sulfate, and evaporated to give ethyl 5-[4-(5-bromo-3-pyridinyl)-2-(cyanomethyl)-7-ethylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate as an yellow gum (28.8 mg, 45.9%).

reactant | ethyl 5-[2-(bromomethyl)-4-(5-bromo-3-pyridinyl)-7-ethylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 70.0 mg | BrCC=1C(=C(C=2N(N1)C(=CC2)CC)C=2C=NC=C(C2)Br)CCCCC(=O)OCC | C22H25Br2N3O2
reactant | potassium cyanide | 13.1 mg | [C-]#N.[K+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | ethyl 5-[4-(5-bromo-3-pyridinyl)-2-(cyanomethyl)-7-ethylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 28.8 mg, 45.9% | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCCCC(=O)OCC)CC#N)C(=CC2)CC | C23H25BrN4O2
